US06946466B2
Starting from 80 mg of 5-fluoro-2-nitrobenzotrifluoride and by reaction with pyrrolidine, 138 mg of 5-pyrrolidinyl-2-nitrobenzotrifluoride are prepared by general method A. The crude product is hydrogenated by general method B. 97 mg of 5-pyrrolidinyl-2-aminobenzo-trifluoride are obtained. Starting from this and by reaction with 3,5-dimethylisoxazole-4-sulfonyl chloride by general method C, 80 mg of 3,5-dimethylisoxazole-4-sulfonic acid 4-pyrrolidin-1-yl-2-trifluoromethyl-phenylamide are prepared.

reactant | 5-fluoro-2-nitrobenzotrifluoride | 80 mg | FC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 5-pyrrolidinyl-2-nitrobenzotrifluoride | 138 mg | N1(CCCC1)C=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C11H11F3N2O2
product | 5-pyrrolidinyl-2-aminobenzo-trifluoride | 97 mg | N1(CCCC1)C=1C=CC(=C(C1)C(F)(F)F)N | C11H13F3N2
